US05763439
Into 10 ml of an acetic acid solution of 1.45 g of 2-tert-butyl-4-methylthio-5-nitropyridazin-3-(2H)-one, 1.33 g of reduced iron was gradually added in a few times over a period of 10 minutes with stirring at 65° C. During the addition, the temperature of the system was maintained from 65° to 75° C. After completion of the addition, the mixture was stirred at a temperature of from 65° to 70° C. for one hour and then left to cool. 100 ml of ethyl acetate was added thereto, and the mixture was filtered through celite. The filtrate was washed twice with water and then with a dilute potassium carbonate aqueous solution, and then it was dried over anhydrous sodium sulfate and concentrated to obtain 1.0 g of 5-amino-2-tert-butyl-4-methylthiopyridazin-3-(2H)-one as a residual powder.

reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
reactant | 2-tert-butyl-4-methylthio-5-nitropyridazin-3-(2H)-one | 1.45 g | C(C)(C)(C)N1N=CC(=C(C1=O)SC)[N+](=O)[O-] | C9H13N3O3S
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 5-amino-2-tert-butyl-4-methylthiopyridazin-3-(2H)-one | 1.0 g | NC1=C(C(N(N=C1)C(C)(C)C)=O)SC | C9H15N3OS
